US04861897
To a suspension of sodium hydride (50% in oil, 3.9 g, 82 mmol) in dimethylformamide (100 ml) was added p-hydroxybenzaldehyde (5.0 g, 41 mmol). The mixture was stirred at room temperature under an atmosphere of nitrogen for one hour, then treated dropwise with 1-bromo-3-chloropropane (8.1 ml, 82 mmol). The mixture was stirred at room temperature for 12 hours, quenched with methanol and filtered through Celite. The filtrate was dissolved in diethyl ether (500 ml), washed with water (3×200 ml) and dried over Na2SO4. The ether layer was concentrated to give 6.1 g (80% yield) of 4-chloropropoxybenzaldehyde as a yellow liquid. 1H NMR (CDCl3): δ 9.95 (s, 1H), 7.85 (d, J=8.1 Hz, 2H), 7.01 (d, J=8.1 Hz, 2H), 4.21 (t, J=5 Hz, 2H), 3.81 (t, J=5 Hz, 2H), 1.26 (m, 2H).

reactant | sodium hydride | 82 mmol, 3.9 g | [H-].[Na+]
reactant | p-hydroxybenzaldehyde | 41 mmol, 5.0 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-bromo-3-chloropropane | 82 mmol, 8.1 ml | BrCCCCl | C3H6BrCl
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-chloropropoxybenzaldehyde | 6.1 g, 80% yield | ClCCCOC1=CC=C(C=O)C=C1 | C10H11ClO2
